US07652032B2
4-benzoxazolyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the process in a manner similar to example 7, starting from 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide and 4-hydroxybenzoxazole, the desired product is obtained in the form of a white solid with a yield of 41%.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 4-hydroxybenzoxazole | OC1=CC=CC2=C1N=CO2 | C7H5NO2
product | 4-benzoxazolyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 41% | C(C)(=O)O[C@H]1[C@H](OC2=CC=CC3=C2N=CO3)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO8S
